US08030497B2
5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trifluoromethyl-1H-benzoimidazole
The title compound is prepared from 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trifluoromethyl-1H-benzoimidazole-5-carbaldehyde and phenylmagnesiumbromide as described in examples 35 and 51.

reactant | 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trifluoromethyl-1H-benzoimidazole-5-carbaldehyde | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2C(F)(F)F)C=O)OC | C22H23F3N2O3
reactant | phenylmagnesiumbromide | C1(=CC=CC=C1)[Mg]Br
product | 5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trifluoromethyl-1H-benzoimidazole | C(C1=CC=CC=C1)C1=C(C2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC)C(F)(F)F | C28H29F3N2O2
